US07807709B2
B. (3R*,4R*)-3-({[2-(3-Amino-phenyl)-acetyl]-cyclopropyl-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
At RT H2 is passed through a suspension of (3R*,4R*)-3-({cyclopropyl-[2-(3-nitro-phenyl)-acetyl]-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (660 mg, 0.95 mmol) and Raney-Ni (100 mg) for several hours. After completion of the reaction the mixture is filtered over Celite and the solvent is evaporated to give the title compound which is used without further purification. MS (LC-MS): 667.0 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 5.33 min.

reactant | (3R*,4R*)-3-({cyclopropyl-[2-(3-nitro-phenyl)-acetyl]-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.95 mmol, 660 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(CC1=CC(=CC=C1)[N+](=O)[O-])=O)C1CC1 | C37H52N4O9
catalyst | Ni | 100 mg | [Ni] | Ni
product | (3R*,4R*)-3-({[2-(3-Amino-phenyl)-acetyl]-cyclopropyl-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C1CC1)C(CC1=CC(=CC=C1)N)=O | C37H54N4O7
